US07981903B2
A suspension of 8-bromo-5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (100 mg, 0.19 mmol), and [4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amine 4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline (59.4 mg, 0.238 mmol) in THF(50 ml) was stirred overnight at rt. The reaction was diluted with ethyl acetate (25 ml) and washed with saturated NaHCO3 (20 ml). Organic layer was filtered through a cotton plug, and concentrated by rotary evaporation to give 8-bromo-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7 (3H)-one (0.120 g, 84%). ESIMS (M+H)+=716.

reactant | 8-bromo-5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.19 mmol, 100 mg | Cl.BrC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3Cl)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O
reactant | [4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amine 4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)aniline | 0.238 mmol, 59.4 mg | CC(C)N1CCN(CC1)C1=CC(=C(N)C=C1)OC.CC(C)N1CCN(CC1)C1=CC(=C(C=C1)N)OC | 2C14H23N3O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 8-bromo-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7 (3H)-one | 0.120 g, 84% | BrC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C(C=C3)N3CCN(CC3)C(C)C)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C34H34BrN7O4S
